US05264439
Step A: Preparation of 2-propyl-6-nitro-quinazolin-4(1H)-one
To a suspension of 48.94 g (0.3 mol) of 3-nitro-5-amino-benzonitrile in 500 mL of CH2Cl2 was added 63 mL of Et3N, 3 g DMAP and lastly, dropwise, 45.5 g (0.45 mol) of butyryl chloride. A mild exothermic reaction ensued. The mixture was allowed to stir for 2 days (monitored by TLC with 50% EtOAc/hexanes). The solution was washed with 1N HCl (2×100 mL), water (1×100 mL), saturated NaHCO3 (2×100 mL), brine (1×100 mL) and dried over MgSO4. The suspension was filtered and concentrated in vacuo. The residue was suspended in a mixture of 600 mL of MeOH and 200 mL of water in a three neck round bottom flask. To this was added gradually 140 mL of 5N NaOH (0.7 mol) solution followed by the dropwise addition of 80 mL of 30% H2O2 (0.7 mmol) solution (exothermic). The mixture was refluxed overnight, cooled to room temperature and filtered. The filtrate was acidified with 1N HCl cooled to 5° C. and filtered. The quinazolinone was recrystallized from hot MeOH to give 38 g (54%) of the title compound as pale brown fine crystals.

reactant | 3-nitro-5-amino-benzonitrile | 0.3 mol, 48.94 g | [N+](=O)([O-])C=1C=C(C#N)C=C(C1)N | C7H5N3O2
reactant | Et3N | 63 mL | CCN(CC)CC | C6H15N
reactant | butyryl chloride | 0.45 mol, 45.5 g | C(CCC)(=O)Cl | C4H7ClO
reactant | NaOH | 0.7 mol, 5N, 140 mL | [OH-].[Na+]
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 3 g | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | H2O2 | 0.7 mmol, 80 mL | OO | H2O2
product | 2-propyl-6-nitro-quinazolin-4(1H)-one | 38 g, 54% | C(CC)C=1NC2=CC=C(C=C2C(N1)=O)[N+](=O)[O-] | C11H11N3O3
